US05296495
A mixture of 4-tert-butyl-2-[5-{2-(2,2-dicarboxyethyl)phenylmethoxy}benzofuran-2-yl]thiazole (1.30 g) in xylene (20 ml) was refluxed with stirring for 7 hours. After being cooled, the mixture was subjected to column chromatography on silica gel (45 g) and eluted with a mixture of methanol and chloroform. The fractions containing object compound were combined and concentrated under reduced pressure. The residue was recrystallized from a mixture of diethyl ether and petroleum ether to give 4-tert-butyl-2-[5-{2-(2-carboxyethyl)phenylmethoxy}benzofuran-2-yl]thiazole (0.86 g).

reactant | 4-tert-butyl-2-[5-{2-(2,2-dicarboxyethyl)phenylmethoxy}benzofuran-2-yl]thiazole | 1.30 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(C=CC=C2)CC(C(=O)O)C(=O)O | C26H25NO6S
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-tert-butyl-2-[5-{2-(2-carboxyethyl)phenylmethoxy}benzofuran-2-yl]thiazole | 0.86 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(C=CC=C2)CCC(=O)O | C25H25NO4S
